US05245046
A mixture of 19.33 g (0.1 mole) of 2-phenylindole, 13.92 g (0.11 mole) of benzyl chloride, 33 g (0.5 mole) of 85% KOH, 14 mL of H2O, 2.5 g (2.5 mmoles) of PEG-1000, and 100 mL of toluene was stirred and heated at 55°-60° for 24 hours. After cooling to room temperature, 100 mL of H2O was added. The layers were separated. The aqueous layer was extracted with 100 mL of toluene. The combined toluene phases were washed with 2N HCl (2×50 mL), H2O (2×50 mL), and 50 mL of brine and dried over MgSO4. Evaporation of the solvent left 32.3 g of dark brown oil. The oil was chromatographed on a 1100 g column of silica gel. The column was elut4d with 25% CH2Cl2 -Skellysolve B and 200 mL fractions were collected. The fractions were assayed by silica gel tlc (1×4") (25% CH2Cl2 -Skellysolve B). Fractions 18-20 were combined giving 3.74 g (13%) of 1-benzyl-2-phenylindole as a solid.

reactant | 2-phenylindole | 0.1 mole, 19.33 g | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | benzyl chloride | 0.11 mole, 13.92 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | KOH | 0.5 mole, 33 g | [OH-].[K+]
solvent | H2O | 100 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | H2O | 14 mL | O | H2O
product | 1-benzyl-2-phenylindole | 3.74 g, 13% | C(C1=CC=CC=C1)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C21H17N
